US04960778
3-METHYL-6-{3-[4-(2-METHOXYPHENYL)-1-PIPERAZINYL]-2-METHYLPROPYL}BENZOXAZOLINONE
0.01 mole of 3-methyl-6-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-methyl-1-propenyl}benzoxazolinone is dissolved in absolute ethanol in a 500-cm3 flask equipped with a three-way tap and a magnetic stirrer. 0.5 g of Raney nickel is added and the mixture is stirred under a hydrogen atmosphere at room temperature and atmospheric pressure. After the theoretical amount of hydrogen has been absorbed, the reaction medium is filtered, the filtrate is evaporated to dryness on a water bath under vacuum and the residue is recrystallized in cyclohexane.

reactant | 3-methyl-6-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-methyl-1-propenyl}benzoxazolinone | 0.01 mole | CN1C(OC2=C1C=CC(=C2)C=C(CN2CCN(CC2)C2=C(C=CC=C2)OC)C)=O | C23H27N3O3
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 3-METHYL-6-{3-[4-(2-METHOXYPHENYL)-1-PIPERAZINYL]-2-METHYLPROPYL}BENZOXAZOLINONE | CN1C(OC2=C1C=CC(=C2)CC(CN2CCN(CC2)C2=C(C=CC=C2)OC)C)=O | C23H29N3O3
